US05008426
19. 6-(1-Naphthoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6oxide
50 g (0.262 mol) of 1-naphthoyl chloride were warmed to 80° to 85° C. under a nitrogen atmosphere. 60.3 g (0.262 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin were added dropwise while stirring. The reaction proceeded exothermically. The temperature was then increased in steps to 125° C. When the reaction was complete, 90 ml of toluene were added at 40° C. After crystallization 77 g (80% of theory) of the above-mentioned compound of melting point 149° to 151° C. were obtained.

reactant | 1-naphthoyl chloride | 0.262 mol, 50 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin | 0.262 mol, 60.3 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(1-Naphthoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6oxide | C1(=CC=CC2=CC=CC=C12)C(=O)P1(OC2=C(C3=C1C=CC=C3)C=CC=C2)=O | C23H15O3P
